* C:\Projects\git\onlab\Digital_guitar_effect\pcb\simulations\input_stage_sim\AD1939_input_with_offset.asc
V1 -V 0 -9
V2 +V 0 9
R2 N003 N004 1Meg
C1 N003 N004 120p
V3 VIN 0 SINE(0 0.3 440) AC 1 Rser=2k
R3 N005 N003 5.7k
R4 N006 N005 5.7k
C2 N006 N005 120p
R5 V- N003 220
R6 V+ N006 220
C5 V- V+ 100p
XU1 N011 N004 +V -V N003 OP27
XU2 N012 N005 +V -V N006 OP27
C7 0 V+ 1n
C8 V- 0 1n
C9 N009 N010 68n
C6 N009 0 220p
R10 N009 N007 100
V4 Vbias 0 1.5
C3 N012 0 100n
R12 Vbias N011 100r
R1 N004 N010 500k
C4 N011 0 100n
R7 Vbias N012 100r
R8 N001 NC_01 1k
R9 N008 NC_02 1k
R13 N002 N001 1k
C10 N002 N001 120p
XU3 N008 N001 +V -V N002 OP27
R11 N008 0 1k
R14 0 N007 1Meg
R15 V- 0 5k
R16 V+ 0 5k
.tran 10m
.lib ADI.lib
.backanno
.end
